US09119868B2
HATU (237 mg, 0.624 mmol) was added to a solution of 6-(N-(3-bromophenyl)methylsulfonamido)-5-cyclopropyl-2-(4-fluorophenyl)benzofuran-3-carboxylic acid (283 mg, 0.520 mmol), methylamine hydrochloride (70.2 mg, 1.040 mmol) and DIEA (0.318 mL, 1.819 mmol) in DMF (2 mL) at room temperature. The mixture was stirred for one hour. The reaction mixture was diluted with EtOAc. The organic layer was washed with water and brine, dried over sodium sulfate and concentrated. The residue was purified by silica gel chromatography (hexane:ethyl acetate) to give 6-(N-(3-bromophenyl)methylsulfonamido)-5-cyclopropyl-2-(4-fluorophenyl)-N-methylbenzofuran-3-carboxamide (230 mg, 79%) as a light yellow solid. 1H NMR (400 MHz, DMSO-d6) δ ppm 8.47 (s, 1H) 8.12 (s, 1H) 7.96 (dd, J=8.98, 5.47 Hz, 2H) 7.60 (t, J=2.05 Hz, 1H) 7.27-7.54 (m, 5H) 7.18 (s, 1H) 3.41 (s, 3H) 2.82 (d, J=4.69 Hz, 3H) 2.07-2.22 (m, 1H) 0.65-1.09 (m, 3H) 0.41 (m, 1H). LCMS (m/z, ES+)=557, 559 (M+H, M+2).

reactant | HATU | 0.624 mmol, 237 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 6-(N-(3-bromophenyl)methylsulfonamido)-5-cyclopropyl-2-(4-fluorophenyl)benzofuran-3-carboxylic acid | 0.520 mmol, 283 mg | BrC=1C=C(C=CC1)N(S(=O)(=O)C)C1=CC2=C(C(=C(O2)C2=CC=C(C=C2)F)C(=O)O)C=C1C1CC1 | C25H19BrFNO5S
reactant | methylamine hydrochloride | 1.040 mmol, 70.2 mg | Cl.CN
reactant | DIEA | 1.819 mmol, 0.318 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 6-(N-(3-bromophenyl)methylsulfonamido)-5-cyclopropyl-2-(4-fluorophenyl)-N-methylbenzofuran-3-carboxamide | 230 mg, 79% | BrC=1C=C(C=CC1)N(S(=O)(=O)C)C1=CC2=C(C(=C(O2)C2=CC=C(C=C2)F)C(=O)NC)C=C1C1CC1 | C26H22BrFN2O4S
